US08648066B2
To a solution of 4-methoxyanthranilic acid (5.0 g, 30.0 mmol) in a mixture of 10% methanol in tetrahydrofuran (100 mL) was added dropwise (trimethylsilyl)diazomethane (2.0 M solution in diethyl ether, 18.0 mL, 36.0 mmol) at 0° C. The reaction mixture was stirred for 16 hours at room temperature then quenched by the addition of glacial acetic acid (0.1 mL). The reaction mixture was concentrated and the residue was partitioned between saturated sodium bicarbonate (50 mL) and ethyl acetate (250 mL). The organic layer was separated and washed with water (50 mL), saturated sodium bicarbonate (50 mL) and brine (50 mL), dried over sodium sulfate, filtered and concentrated to give methyl 2-amino-4-methoxybenzoate as an oil (5.4 g, quantitative). MS (EI) for C9H11NO3: 182 (MH+).

reactant | 4-methoxyanthranilic acid | 30.0 mmol, 5.0 g | COC=1C=C(C(C(=O)O)=CC1)N | C8H9NO3
reactant | (trimethylsilyl)diazomethane | 36.0 mmol, 2.0 M, 18.0 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 2-amino-4-methoxybenzoate | NC1=C(C(=O)OC)C=CC(=C1)OC | C9H11NO3
